US06552067B2
A cold solution of sodium nitrite (228 mg, 3.31 mmol) in water (2.0 mL) was added dropwise to a mixture of 2-amino-thiazole-4-carboxylic acid ethyl ester (J. Am. Chem. Soc., 1946, 68, 266) (500 mg, 2.90 mmol), CuSO4 pentahydrate (2.100 g, 8.41 mmol), NaBr (1.134 g, 11.02 mmol), H2SO4 (3.0 mL) and water (3.0 mL) at −5° C. to 0° C. The reaction mixture was stirred at 0° C. for 20 minutes and at room temperature for 1 h. The reaction mixture was adjusted to pH 9 with 1N NaOH (105 mL) and the aqueous solution was washed with CHCl3 (4×50 mL). The organic solutions were combined, dried (MgSO4), filtered and concentrated. Purification by medium pressure chromatography (39:1 hexanes:EtOAc to 19:1 hexanes:EtOAc) provided 2-bromo-thiazole-4-carboxylic acid ethyl ester (257 mg).

reactant | sodium nitrite | 3.31 mmol, 228 mg | N(=O)[O-].[Na+]
reactant | 2-amino-thiazole-4-carboxylic acid ethyl ester | 2.90 mmol, 500 mg | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
reactant | NaBr | 11.02 mmol, 1.134 g | [Na+].[Br-]
reactant | H2SO4 | 3.0 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | 1N, 105 mL | [OH-].[Na+]
solvent | water | 2.0 mL | O | H2O
solvent | water | 3.0 mL | O | H2O
product | 2-bromo-thiazole-4-carboxylic acid ethyl ester | 257 mg | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
